US07645771B2
Preparation of 2-chloro-4-fluoro-5-{[(2,2,2-trifluoroethyl)amino]sulfonyl}benzoic acid
4.997 g (18.3 mmol) 3-chlorosulfonyl-4-fluorobenzoic acid, 2.90 g (27.5 mmol) NaHCO3 were dissolved in 50 mL water. 1.45 mL (18.3 mmol) trifluoroethylamine was added dropwise to solution. Solution was acidified to pH=1 with concentrated HCl and product was extracted into ethyl acetate. Dried over MgSO4 and concentrated. 5.27 g recovered (83% yield). Crude product was used in subsequent step without further purification. 1H NMR (300 MHz, DMSO-d6) δ 9.22-9.37 (dt, 1H, J=6.44, 30.24 Hz), 7.80-7.92 (dd, 1H, J=9.91, 25.78 Hz), 4.04-4.16 (m, 1H), 3.77-3.90 (m, 1H).

reactant | 3-chlorosulfonyl-4-fluorobenzoic acid | 18.3 mmol, 4.997 g | ClS(=O)(=O)C=1C=C(C(=O)O)C=CC1F | C7H4ClFO4S
reactant | NaHCO3 | 27.5 mmol, 2.90 g | C(=O)(O)[O-].[Na+]
reactant | trifluoroethylamine | 18.3 mmol, 1.45 mL | FC(CN)(F)F | C2H4F3N
reactant | HCl | Cl | ClH
solvent | water | 50 mL | O | H2O
product | 2-chloro-4-fluoro-5-{[(2,2,2-trifluoroethyl)amino]sulfonyl}benzoic acid | 83% yield | ClC1=C(C(=O)O)C=C(C(=C1)F)S(=O)(=O)NCC(F)(F)F | C9H6ClF4NO4S
